US07906645B2
tert-Butyl 4-[(1-benzylpiperidin-3-yl)methyl]-3-oxopiperazine-1-carboxylate
To a solution of tert-butyl-3-oxopiperazine-1-carboxylate (250 mg) in dimethylformamide (10 mL) was added sodium hydride (55 mg) at room temperature under argon. The mixture was stirred at room temperature 15 minutes before a solution of (1-benzylpiperidin-3-yl)methyl 4-methylbenzenesulfonate (492 mg) in dimethylformamide (5 mL) was added. The mixture was stirred overnight at room temperature before sodium hydride (60 mg) was added and the mixture was stirred for 48 hours. A further quantity of sodium hydride (60 mg) was added and the mixture was stirred for 5 hours and then quenched by the addition of water. The mixture was then partitioned between water and ethyl acetate. The layers were separated and the organic layer washed twice with water and once with brine. The organic layer was then dried over sodium sulfate and evaporated. The residue was purified by silica column chromatography, eluting with a gradient of 0 to 70% ethyl acetate in hexane to give the title compound as a colourless oil (95 mg, 20%).

reactant | tert-butyl-3-oxopiperazine-1-carboxylate | 250 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | sodium hydride | 55 mg | [H-].[Na+]
reactant | (1-benzylpiperidin-3-yl)methyl 4-methylbenzenesulfonate | 492 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1CN(CCC1)CC1=CC=CC=C1 | C20H25NO3S
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | sodium hydride | 60 mg | [H-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[(1-benzylpiperidin-3-yl)methyl]-3-oxopiperazine-1-carboxylate | 95 mg, 20% | C(C1=CC=CC=C1)N1CC(CCC1)CN1C(CN(CC1)C(=O)OC(C)(C)C)=O | C22H33N3O3
